US04199354
F. [3,5-bis(p-methoxybenzyloxycarbonyl)-4-nitrophenoxy]-N,N-dihexylacetamide
To a solution of (3,5-dicarboxy-4-nitrophenoxy)-N,N-dihexylacetamide in dimethylformamide containing two equivalents of triethylamine are added two equivalents of p-methoxybenzylchloride. The mixture is stirred and heated to about 100° C. for 1 hr. After this time, the reaction is cooled to room temperature and poured into ice water. The aqueous mixture is extracted with 2 portions of methylene chloride. The combined extracts are back-extracted with water to remove dimethylformamide, dried over anhydrous calcium sulfate, filtered and concentrated under reduced pressure. The remaining oil which was not induced to crystallize is analyzed by NMR and used directly in the next step.

reactant | (3,5-dicarboxy-4-nitrophenoxy)-N,N-dihexylacetamide | C(=O)(O)C=1C=C(OCC(=O)N(CCCCCC)CCCCCC)C=C(C1[N+](=O)[O-])C(=O)O | C22H32N2O8
reactant | dimethylformamide | two equivalents | CN(C=O)C | C3H7NO
reactant | p-methoxybenzylchloride | two equivalents | COC1=CC=C(CCl)C=C1 | C8H9ClO
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | [3,5-bis(p-methoxybenzyloxycarbonyl)-4-nitrophenoxy]-N,N-dihexylacetamide | COC1=CC=C(COC(=O)C=2C=C(OCC(=O)N(CCCCCC)CCCCCC)C=C(C2[N+](=O)[O-])C(=O)OCC2=CC=C(C=C2)OC)C=C1 | C38H48N2O10
